US08304443B2
(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl)methanol
Ethyl6-benzyloxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate (182 mg) which can be prepared according to the method described in Reference example 21, etc. was dissolved in dehydrated THF (4.78 mL; manufactured by Kanto Chemical Co., Inc.). After the replacement with nitrogen, LiAlH4 (54 mg) was added at 0° C., and the mixture was stirred for 1 hour while warming to room temperature. After cooling to 0° C., THF/water=1/1(5 mL), rochelle salt (manufactured by Kanto Chemical Co., Inc.), and saturated aqueous solution of sodium hydrogen carbonate were added, and extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, hexane was added to the residue and the solvent was evaporated under reduced pressure to give the title compound (155 mg).

reactant | Ethyl6-benzyloxy-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carboxylate | 182 mg | C(C)OC(=O)C1=NN(C2=CC(=CC=C12)OCC1=CC=CC=C1)C1OCCCC1 | C22H24N2O4
reactant | LiAlH4 | 54 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 4.78 mL | C1CCOC1 | C4H8O
solvent | THF water | C1CCOC1.O
product | (6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl)methanol | 155 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)CO | C20H22N2O3
